US07173134B2
D. 4-[(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-thiophenecarbaldehyde
A round bottom flask was mixed with 2-{4-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-thienyl}-1,3-dioxolane (5.1 g, 14.3 mmol), 3.0 N HCl (50 mL), methanol (20 mL) and THF (30 mL). The reaction mixture stirred for 6 hours at room temperature and was concentrated to one half volume. The resulting mixture was partitioned between water and ether. The ether layer was dried over MgSO4 and concentrated to dryness. The resulting oil showed an inseparable impurity by TLC from the starting material. The product was used without further purification (2.7 g).

reactant | 2-{4-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-thienyl}-1,3-dioxolane | 14.3 mmol, 5.1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC=1C=C(SC1)C1OCCO1)C | C22H28O2S
reactant | HCl | 3.0 N, 50 mL | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-[(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-thiophenecarbaldehyde | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC=1C=C(SC1)C=O)C | C20H24OS
